US07427612B2
3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-chloro-benzenesulfonamide
The title compound was prepared according to the procedure described for example K/step2 from 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone and 2-Chloro-5-sulfamoyl-benzoic acid (CAS: 97-04-1; Basu; D.-G.; J.Indian Chem.Soc.; 16; 1939; 100, 106) (42%, white solid), MS (m/e): 438.1 (M−H, 100%)

reactant | 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone | FC=1C=C(C=CC1N1CCNCC1)C(C)=O | C12H15FN2O
reactant | 2-Chloro-5-sulfamoyl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(N)(=O)=O | C7H6ClNO4S
product | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-chloro-benzenesulfonamide | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C=CC1Cl)S(=O)(=O)N)F | C19H19ClFN3O4S
